US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-propargyloxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate (I-4H) (E isomer)
To a solution of 86 mg (0.19 mmole) of 7-amino-3-[3-(4-carbamoylpyridinio)-1-(E)-propenyl]-3-cephem-4-carboxylate hydrochloride (XXII-H) in 2 ml of 50% aqueous acetone was added 63 mg of 2-propargyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride (from Preparation No. 26). The suspension was maintained at pH 6.5-7.0 with 2N Na2CO3 and then stirred at room temperature for 1 hour. The reaction mixture was acidified to pH 2 with 1N HCl and concentrated in vacuo. The residue was diluted with 30 ml of water, neutralized with NaHCO3 and filtered. The filtrate was transferred on the top of a column which was packed with reverse phase carrier (30 ml) taken from a PrepPAK-500/C18 cartridge (Waters). The column was eluted with water, 5% CH3OH, 10% CH3OH and 20% CH3OH, successively. Fractions containing the product were combined and lyophilized to afford 13 mg (12%) of the title product I-4H. Estimated purity 70%. Mp. 160° C.

reactant | 7-amino-3-[3-(4-carbamoylpyridinio)-1-(E)-propenyl]-3-cephem-4-carboxylate hydrochloride | 0.19 mmole, 86 mg | Cl.NC1[C@@H]2N(C(=C(CS2)\C=C\C[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O
reactant | 2-propargyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride | 63 mg | Cl.C(C#C)ON=C(C(=O)Cl)C1=NSC(=N1)N
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-propargyloxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate | 13 mg, 12% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)=NOCC#C | C23H20N8O6S2
